US06225306B1
(11aS)-10-[4-[[2-(4-Tolyl) Benzoyl]Amino]Benzoyl]-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5-One
The same procedures used in Example 25 were repeated using (11aS)-1,2,3,10,11,11a-hexahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5-one prepared in Reference Example 24 and 4-[[2-(4-tolyl)benzoyl]amino]benzoic acid to give the title compound. Yield 74.4%.

reactant | (11aS)-1,2,3,10,11,11a-hexahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5-one | C1CCN2[C@@H]1CNC1=C(C2=O)C=CC=C1 | C12H14N2O
reactant | 4-[[2-(4-tolyl)benzoyl]amino]benzoic acid | C1(=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC=C1)C | C21H17NO3
product | (11aS)-10-[4-[[2-(4-Tolyl) Benzoyl]Amino]Benzoyl]-1,2,3,10,11,11a-Hexahydro-5H-Pyrrolo[2,1-c][1,4]Benzodiazepin-5-One | Yield 74.4% | C1(=CC=C(C=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3C[C@H]4N(C(C5=C3C=CC=C5)=O)CCC4)C=C2)C=CC=C1)C | C33H29N3O3
